US09255217B2
N,N-diethyl-4,6-bis[(isopropylideneamino)oxy]-1,3,5-triazin-2-amine
To a solution of acetone oxime (4.68 g, 0.063 mol) and cyanuric chloride (3.69 g, 0.020 mol) in dry acetonitrile (40 ml) is at room temperature added triethylamine (6.38 g, 0.063 mol). The temperature of the reaction mixture at the end of the addition rises up to 44° C. The mixture is then stirred for 21 h at 45° C., cooled to 8° C., the precipitated solid is filtered off and the filtrate is evaporated under reduced pressure. The residue is washed thoroughly with water and dried to afford 2.96 g of the title compound as a white solid, mp. 111-113° C.

reactant | acetone oxime | 0.063 mol, 4.68 g | CC(C)=NO | C3H7NO
reactant | cyanuric chloride | 0.020 mol, 3.69 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | triethylamine | 0.063 mol, 6.38 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N,N-diethyl-4,6-bis[(isopropylideneamino)oxy]-1,3,5-triazin-2-amine | 2.96 g | C(C)N(C1=NC(=NC(=N1)ON=C(C)C)ON=C(C)C)CC | C13H22N6O2
